US04892951
2-(2,3-Dihydroxy-1-propylamino)-3-nitropyridine
A solution of 2-chloro-3-nitropyridine (3.22 g, 20.3 mmol), 3-amino-1,2-propanediol (1.85 g, 20.3 mmol) and triethylamine (2.05 g, 20.3 mmol) in isopropanol (80 mL) was stirred at 20°-25° C. for 18 hours and then at reflux for 6 hours. After concentrating under reduced pressure, the residue was flash chromatographed over silica gel. Elution with 5% MeOH-95% CHCl3 and recrystallization from EtOAc-hexane afforded analytically pure product (2.64 g, 61%), m.p. 95.5°-98.0° C.

reactant | 2-chloro-3-nitropyridine | 20.3 mmol, 3.22 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 3-amino-1,2-propanediol | 20.3 mmol, 1.85 g | NCC(CO)O | C3H9NO2
reactant | triethylamine | 20.3 mmol, 2.05 g | C(C)N(CC)CC | C6H15N
solvent | isopropanol | 80 mL | C(C)(C)O | C3H8O
product | 2-(2,3-Dihydroxy-1-propylamino)-3-nitropyridine | 2.64 g, 61% | OC(CNC1=NC=CC=C1[N+](=O)[O-])CO | C8H11N3O4
